US06133449
(R)-1-(2-Methoxyphenyl)-4-[2-(methyl)-2-(2-pyridinylamino)ethyl]piperazine
12.02 grams of 1-(2-methoxyphenyl)piperazine and 13.4 grams of (R)4-methyl-3-pyridin-2-yl[1,2,3]oxathiazolidine-2,2-dioxide were stirred together in 50 milliliters of acetonitrile at room temperature overnight. The solvent was removed in vacuo. The residue was heated in 100 milliliters of dilute hydrochloric acid for 30 minutes. The mixture was cooled, washed with dichloromethane, basified by using dilute sodium hydroxide solution and extracted by means of dichloromethane. The organic phase was washed with water, dried and evaporated to dryness to give 15.8 g of the title compound as a slightly crude product. The product was 85 to 95% pure and contained 2 main impurities derived from the sulphone. The crude product was used directly, i.e. without purification, by acylation by means of cyclohexanecarbonyl chloride to yield (R)-N-[1-methyl-2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-N-(2-pyridinyl) cyclohexanecarboxamide.

reactant | 1-(2-methoxyphenyl)piperazine | 12.02 grams | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | (R)4-methyl-3-pyridin-2-yl[1,2,3]oxathiazolidine-2,2-dioxide | 13.4 grams | C[C@H]1N(S(OC1)(=O)=O)C1=NC=CC=C1 | C8H10N2O3S
solvent | acetonitrile | 50 milliliters | C(C)#N | C2H3N
product | (R)-1-(2-Methoxyphenyl)-4-[2-(methyl)-2-(2-pyridinylamino)ethyl]piperazine | 15.8 g | COC1=C(C=CC=C1)N1CCN(CC1)C[C@H](NC1=NC=CC=C1)C | C19H26N4O
